US06627629B2
Part C. Preparation of (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid
A solution of Preparation of (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid methyl ester (673 mg, 2.54 mmol) in tetrahydrofuran (5 mL) was treated with 1.0 M sodium hydroxide solution (5.0 mL, 5.0 mmol) and the heterogeneous mixture was stirred at room temperature. After 75 min, the now homogeneous solution was treated with 1.0 M hydrochloric acid (5.0 mL, 5.0 mmol) and concentrated in vacuo. The residue was dissolved in water and lyophilized to provide the product, along with sodium chloride, as a fluffy white solid (928 mg, quantitative), used without further purification. 1H NMR (300 mHz, DMSO-d6) δ7.4-7.2 (m, 5H), 3.87 (q, J=6.6 Hz, 1H), 3.27 (dd, J=13.6, 7.0 Hz, 1H), 3.0-2.8 (m, 3H), 2.5 (m, 2H), 1.26 (d, J=6.6, 3H), ESI MS: (M+H)+252.0.

reactant | (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid methyl ester | 2.54 mmol, 673 mg | COC(=O)[C@@H]1CSC[C@H]1N[C@H](C)C1=CC=CC=C1 | C14H19NO2S
reactant | sodium hydroxide | 5.0 mmol, 1.0 M, 5.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5.0 mmol, 1.0 M, 5.0 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophene-3-carboxylic acid | C1(=CC=CC=C1)[C@@H](C)N[C@H]1[C@@H](CSC1)C(=O)O | C13H17NO2S
